US07601844B2
5-Chloro-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-6-phenoxynicotinamide
5,6-Dichloro-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)nicotinamide (35 mg, 0.068 mmol), 0.5 mL DMF, and sodium phenolate (9.51 mg, 0.08 mmol) was heated for 1 hr at 120° C. Example 624 was isolated as a white solid by preparative reverse phase HPLC (13.7 mg, 35.2% yield), M+H=570.07.

reactant | 5,6-Dichloro-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)nicotinamide | 0.068 mmol, 35 mg | ClC=1C(=NC=C(C(=O)N[C@@H](C(=O)N2CC([C@@](CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C(C)C)C1)Cl | C24H28Cl3N3O3
reactant | sodium phenolate | 0.08 mmol, 9.51 mg | C1(=CC=CC=C1)[O-].[Na+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-N—((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)-6-phenoxynicotinamide | 35.2% yield | ClC=1C(=NC=C(C(=O)N[C@@H](C(=O)N2CC([C@@](CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C(C)C)C1)OC1=CC=CC=C1 | C30H33Cl2N3O4
